US04865430
A. 4-[N-(2-Hydroxyethyl)-N-methylamino]benzaldehyde
A 2 liter three necked flask fitted with a mechanical stirrer, thermometer and condenser is charged with 134 g of 2-(methylamino)ethanol, 74.4 g of 4-fluorobenzaldehyde, 1 ml of Aliquat 336, 750 ml of dimethylsulfoxide and 82.8 g of anhydrous potassium carbonate. The mixture is heated at 95° C. for three days. The product mixture is cooled and poured into 3 liters of ice water. The resultant solid precipitate is filtered, washed with water, and vacuum dried. The crude produce it recrystallized from toluene, m.p. 72° C.

reactant | 2-(methylamino)ethanol | 134 g | CNCCO | C3H9NO
reactant | 4-fluorobenzaldehyde | 74.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 82.8 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Aliquat 336 | 1 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dimethylsulfoxide | 750 ml | CS(=O)C | C2H6OS
product | 4-[N-(2-Hydroxyethyl)-N-methylamino]benzaldehyde | OCCN(C)C1=CC=C(C=O)C=C1 | C10H13NO2
